US03983133
To 80 parts thionylchloride (previously cooled to 0°C.) are added 10.15 parts 2-(β-hydroxy-phenethyl-amino)-2-imidazoline. After the addition is complete, the whole is stirred for 30 minutes at room temperature and further stirred and refluxed for 15 minutes. The solvent is evaporated. The residue is dissolved in 40 parts toluene and evaporated again. This treatment is repeated by using 40 parts methanol. The residue is then dissolved in 40 parts 2-propanol. To this solution is added a solution of 1.15 parts sodium metal in 40 parts 2-propanol. The whole is stirred and refluxed for one hour. The solvent is evaporated. The residue is dissolved in 150 parts water. The solution is filtered. The filtrate is alkalized with ammonium hydroxide and extracted three times with 40 parts ether and three times with 75 parts chloroform. The combined extracts are dried over potassium carbonate and evaporated. The solid residue is recrystallized from a mixture of 16 parts acetone and 16 parts 4-methyl-2-pentanone, yielding 2,3,5,6-tetrahydro-5-phenyl-1H-imidazo[1,2-a]imidazole; m.p. 167°-169.5°C.

reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(β-hydroxy-phenethyl-amino)-2-imidazoline | OC(CNC=1NCCN1)C1=CC=CC=C1 | C11H15N3O
product | 2,3,5,6-tetrahydro-5-phenyl-1H-imidazo[1,2-a]imidazole | C1(=CC=CC=C1)C1CN=C2N1CCN2 | C11H13N3
